US06440995B1
(RS)-3-[2-(1,3-Dihydro-isoindol-2-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 295-301° C., and MS: m/e=336.2 (M+H+), was prepared from 4-chloro-2-(1,3-dihydro-isoindol-2-yl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(1,3-dihydro-isoindol-2-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)N1CC2=CC=CC=C2C1 | C17H13ClN2
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(1,3-Dihydro-isoindol-2-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.C1N(CC2=CC=CC=C12)C1=NC2=CC=CC=C2C(=C1)NCC(CO)O | InChI=1S/C20H21N3O2.ClH/c24-13-16(25)10-21-19-9-20(22-18-8-4-3-7-17(18)19)23-11-14-5-1-2-6-15(14)12-23;/h1-9,16,24-25H,10-13H2,(H,21,22);1H
